US06660736B2
g) 2-[5-(4-Fluoro-benzyloxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetamide
A mixture of 5-(4-fluoro-benzyloxy)-isoindole-1,3-dione (100 mg, 0.37 mmol), sodium hydride (55% in mineral oil, 18 mg, 0.42 mmol) and 2-bromoacetamide (61 mg, 0.44 mmol) in dry tetrahydrofuran (5 mL) at 0° C. was stirred at room temperature for 3 h and then heated at 50° C. for 1 h. After cooling to 0° C., water (2 mL) was added and the product extracted with ethyl acetate. The organic extracts were then washed with brine and dried over sodium sulfate. Filtration and evaporation gave a residue which was purified by chromatography (SiO2, heptane-CH2Cl2 2:3 then CH2Cl2— 2N NH3—MeOH 99:1: to 4:1) to afford the title compound (78 mg, 65%) as a white solid. MS: m/e=329.3 (M+H+).

reactant | 5-(4-fluoro-benzyloxy)-isoindole-1,3-dione | 0.37 mmol, 100 mg | FC1=CC=C(COC=2C=C3C(NC(C3=CC2)=O)=O)C=C1 | C15H10FNO3
reactant | sodium hydride | 0.42 mmol, 18 mg | [H-].[Na+]
reactant | 2-bromoacetamide | 0.44 mmol, 61 mg | BrCC(=O)N | C2H4BrNO
reactant | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-[5-(4-Fluoro-benzyloxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetamide | 78 mg, 65% | FC1=CC=C(COC=2C=C3C(N(C(C3=CC2)=O)CC(=O)N)=O)C=C1 | C17H13FN2O4
